US08604040B2
1,2,3,4-Tetrahydronaphthalen-1-yl 6-(4-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-acetyl}piperazin-1-yl)pyridine-2-carboxylate
To a solution of 6-(4-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperazin-1-yl)-pyridine-2-carboxylic acid (150 mg) in dichloromethane (5 ml) are added, at room temperature, 1,2,3,4-tetrahydronaphthalen-1-ol (70 mg), 4-dimethylaminopyridine (4.4 mg) and 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide (104 mg). The mixture is stirred at room temperature overnight, and then water is added. The aqueous phase is removed and extracted with ethyl acetate, and then the combined organic phases are dried over sodium sulphate. The solids are filtered off and the solvent is distilled off. The residue is purified by chromatography. This gives 1,2,3,4-tetrahydronaphthalen-1-yl 6-(4-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperazin-1-yl)pyridine-2-carboxylate (70 mg).

reactant | 6-(4-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperazin-1-yl)-pyridine-2-carboxylic acid | 150 mg | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCN(CC1)C1=CC=CC(=N1)C(=O)O)F | C17H17F4N5O3
reactant | 1,2,3,4-tetrahydronaphthalen-1-ol | 70 mg | C1(CCCC2=CC=CC=C12)O | C10H12O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide | 104 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 4.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1,2,3,4-Tetrahydronaphthalen-1-yl 6-(4-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]-acetyl}piperazin-1-yl)pyridine-2-carboxylate | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCN(CC1)C1=CC=CC(=N1)C(=O)OC1CCCC2=CC=CC=C12)F | C27H27F4N5O3
